US04898977
Isovaleric acid 1-cyclohexyl-3-buten-2-yl ester
2.4 ml (19.5 mmol) of isovaleric acid chloride are added dropwise at 0° C. to a solution of 2.75 g (17.76 mmol) of 1-cyclohexyl-3-buten-2-ol, 3 ml (21.3 mmol) of triethylamine and 430 mg (3.5 mmol) of 4-dimethylaminopyridine in 20 ml of methylene chloride. When the addition is complete, the mixture is stirred for a further 3 hours at room temperature. After diluting with ether, the mixture is washed twice with 2N HCl, twice with saturated NaHCO3 solution and twice with brine and dried over MgSO4. After concentration by evaporation, the residue is distilled in a bulb tube at 150°/0.007 mbar.

reactant | isovaleric acid chloride | 19.5 mmol, 2.4 ml | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-cyclohexyl-3-buten-2-ol | 17.76 mmol, 2.75 g | C1(CCCCC1)CC(C=C)O | C10H18O
reactant | triethylamine | 21.3 mmol, 3 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 3.5 mmol, 430 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Isovaleric acid 1-cyclohexyl-3-buten-2-yl ester | C1(CCCCC1)CC(C=C)OC(CC(C)C)=O | C15H26O2
